US04866091
A mixture of 4'-cyano-2'-(2,4-difluorophenoxy)methanesulfonanilide (1.5 g), hydroxylamine hydrochloride (0.8 g), and sodium carbonate (1.2 g) in ethanol (21 ml) and water (32 ml) was refluxed for 13 hours. The mixture was concentrated and the residue was dissolved in water, acidified with diluted hydrochloric acid, and extracted with ethyl acetate. The extract was washed with water, dried, and concentrated. The residue was purified by column chromatography on silica gel (40 g) eluting with a mixture of toluene and ethyl acetate (1:1) to give colorless crystals of 3-(2,4-difluorophenoxy)-4-(methanesulfonamido)benzamidoxime (1.0 g).

reactant | 4'-cyano-2'-(2,4-difluorophenoxy)methanesulfonanilide | 1.5 g | C(#N)C1=CC(=C(NS(=O)(=O)C)C=C1)OC1=C(C=C(C=C1)F)F | C14H10F2N2O3S
reactant | hydroxylamine hydrochloride | 0.8 g | Cl.NO
reactant | sodium carbonate | 1.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 21 ml | C(C)O | C2H6O
solvent | water | 32 ml | O | H2O
product | 3-(2,4-difluorophenoxy)-4-(methanesulfonamido)benzamidoxime | 1.0 g | FC1=C(OC=2C=C(C(N)=NO)C=CC2NS(=O)(=O)C)C=CC(=C1)F | C14H13F2N3O4S
